US04504491
To a stirred solution of benzoylbenzaldehyde (2 g, 10 mmol) and 1,2-bis-(trimethoxysiloxy)ethane (2.3 g, 11 mmol) in dry dichloromethane (30 cm3) under N2 at room temperature was added trimethylsilylmethyl trifluoromethanesulphonate (5 drops). After stirring at 20° C. for 48 hours, pyridine (3 drops) was added followed by saturated NaHCO3 (20 cm3) and diethyl ether (20 cm3). The resulting mixture was stirred for 30 minutes. The ethereal layer was separated off and the aqueous layer extracted twice more with diethyl ether. The combined extracts were washed with water, dried over a mixture of anhydrous Na2CO3 and anhydrous Na2SO4 (1:1) and the solvent removed in vacuo to give 2-(3-benzoylphenyl)-1,3-dioxolane, nD20 1.5890. Yield 2.2 g (91.7%).

reactant | benzoylbenzaldehyde | 10 mmol, 2 g | C(C1=CC=CC=C1)(=O)C1=C(C=O)C=CC=C1 | C14H10O2
reactant | 1,2-bis-(trimethoxysiloxy)ethane | 11 mmol, 2.3 g | CO[Si](OCCO[Si](OC)(OC)OC)(OC)OC | C8H22O8Si2
reactant | NaHCO3 | 20 cm3 | C(=O)(O)[O-].[Na+]
reactant | diethyl ether | 20 cm3 | C(C)OCC | C4H10O
solvent | dichloromethane | 30 cm3 | ClCCl | CH2Cl2
catalyst | trimethylsilylmethyl trifluoromethanesulphonate | 5 drops | FC(S(=O)(=O)OC[Si](C)(C)C)(F)F | C5H11F3O3SSi
catalyst | pyridine | 3 drops | N1=CC=CC=C1 | C5H5N
product | 2-(3-benzoylphenyl)-1,3-dioxolane | C(C1=CC=CC=C1)(=O)C=1C=C(C=CC1)C1OCCO1 | C16H14O3
